US07338973B2
1-(8-hydroxy-6H-5-thia-11-aza-benzo[a]fluoren-11-yl)ethan-one
1-[8(tert-butyl-dimethyl-silanyloxy)-6H-5-thia-11-aza-benzo[a]fluoren-11-yl]-ethanone (136 mg, 0.332 mmol) in THF (5 mL) was added TBAF (332 μL, 1.0 N in THF, 0.332 mmol, 1.0 eq.). After 1 hour at 25° C., the reaction mixture was partitioned between saturated NaHCO3 aqueous solution and CH2Cl2, the aqueous layer was extracted with CH2Cl2 and the organic layers were dried and concentrated to yield crude product. The crude product was purified by chromatography to yield the title compound as a yellow solid.

reactant | 1-[8(tert-butyl-dimethyl-silanyloxy)-6H-5-thia-11-aza-benzo[a]fluoren-11-yl]-ethanone | 0.332 mmol, 136 mg | C(C)(C)(C)[Si](OC=1C=C2C=3CSC4=C(C3N(C2=CC1)C(C)=O)C=CC=C4)(C)C | C23H27NO2SSi
reactant | TBAF | 0.332 mmol, 1.0 N, 332 μL, 1.0 eq. | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(8-hydroxy-6H-5-thia-11-aza-benzo[a]fluoren-11-yl)ethan-one | OC=1C=C2C=3CSC4=C(C3N(C2=CC1)C(C)=O)C=CC=C4 | C17H13NO2S
